US08455475B2
tert-Butyl 9-(allyloxy)-3-azaspiro[5.5]undecane-3-carboxylate
KOH (257.46 mmol, 21.0 eq.), allyl bromide (36.8 mmol, 3.0 eq.) and 18-crown-6 (4.9 mmol, 0.4 eq.) were added to a solution of tert-butyl 9-hydroxy-3-azaspiro[5.5]undecane-3-carboxylate (12.26 mmol, 1.0 eq.) in toluene (65 ml) at 0° C. and then reaction mixture was heated at reflux for 1 h. Then the reaction mixture was diluted with ethyl acetate (150 ml) and washed with water (150 ml) and brine (150 ml). The organic layer was dried over sodium sulfate and concentrated under reduced pressure to yield the crude product which was purified by silica gel column chromatography eluting with 10% ethyl acetate in hexanes to afford the desired product as a yellow oil. Yield: 92%

reactant | KOH | 257.46 mmol, 21.0 eq. | [OH-].[K+]
reactant | allyl bromide | 36.8 mmol, 3.0 eq. | C(C=C)Br | C3H5Br
reactant | 18-crown-6 | 4.9 mmol, 0.4 eq. | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | tert-butyl 9-hydroxy-3-azaspiro[5.5]undecane-3-carboxylate | 12.26 mmol, 1.0 eq. | OC1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C15H27NO3
solvent | toluene | 65 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 9-(allyloxy)-3-azaspiro[5.5]undecane-3-carboxylate | Yield: 92% | C(C=C)OC1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C18H31NO3
